US08242133B2
To a mixture of 1.15 g of WSC and 8 ml of pyridine, 1.43 g of 3-tert-butoxycarbonylamino isonicotinic acid was added and stirred at room temperature for 15 minutes. To the reaction mixture, 1.06 g of 2-amino-4-(trifluoromethyl)phenol was added and stirred while heating at 60° C. for two hours. Thereafter, the mixture reaction was cooled to room temperature, and then concentrated under reduced pressure. Water was added to the residue, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to give 1.79 g of 3-tert-butoxycarbonylamino-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide.

reactant | WSC | 1.15 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-tert-butoxycarbonylamino isonicotinic acid | 1.43 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CN=C1 | C11H14N2O4
reactant | 2-amino-4-(trifluoromethyl)phenol | 1.06 g | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 3-tert-butoxycarbonylamino-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide | 1.79 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C=CN=C1 | C18H18F3N3O4
